US06528504B2
5,11-Dihydro-5-[2-[N-(4-methoxyphenethyl)-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine Hydrochloride
3 ml of 4 M hydrochloric acid/dioxane was added to a solution of 5,11-dihydro-5-[2-[N-(4-methoxyphenethyl)-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine (423 mg, 1.09 mmol) in dichloromethane (10 ml), and they were stirred for 1 hour. The solvent was evaporated under reduced pressure. The residue was recrystallized from a solvent mixture of ethyl acetate and hexane to obtain the title compound in the form of a white solid (389 mg, 84%).

reactant | hydrochloric acid dioxane | 4 M, 3 ml | Cl.O1CCOCC1
reactant | 5,11-dihydro-5-[2-[N-(4-methoxyphenethyl)-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine | 1.09 mmol, 423 mg | COC1=CC=C(CCN(C)CCN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C25H28N2O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5,11-Dihydro-5-[2-[N-(4-methoxyphenethyl)-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine Hydrochloride | Cl.COC1=CC=C(CCN(C)CCN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | InChI=1S/C25H28N2O2.ClH/c1-26(16-15-20-11-13-22(28-2)14-12-20)17-18-27-23-8-4-3-7-21(23)19-29-25-10-6-5-9-24(25)27;/h3-14H,15-19H2,1-2H3;1H
